2116-07-02 05:53:00 Physician Resident Progress Note
Chief Complaint: Hypotension and respiratory failure
   24 Hour Events: BP stable overnight,off pressors since 1700 on [**7-1**],
   did give second fluid bolus for low urine output and low CVP ([**5-11**]), old
   triple lumen in the right d/c and tip sent for culture, new left
   subclavian placed and new right radial a-line placed.
   Better urine output and BP with boluses
 MULTI LUMEN - START [**2116-7-1**] 04:00 PM
   Pt arrived from OSH with triple lumen in place.  Most likely placed at
   [**Hospital1 **] prior to pts D/C.  Blue port unable to flush, brown & white port
   flushing with minimal return.
 INVASIVE VENTILATION - START [**2116-7-1**] 04:00 PM
   intubated in the EW...
 MULTI LUMEN - START [**2116-7-1**] 07:22 PM
 SPUTUM CULTURE - At [**2116-7-1**] 08:00 PM
 ARTERIAL LINE - START [**2116-7-1**] 10:00 PM
 MULTI LUMEN - STOP [**2116-7-1**] 10:47 PM
   Pt arrived from OSH with triple lumen in place.  Most likely placed at
   [**Hospital1 **] prior to pts D/C.  Blue port unable to flush, brown & white port
   flushing with minimal return.
   Allergies:
   Celebrex (Oral) (Celecoxib)
   Facial/mouth sw
   Last dose of Antibiotics:
   Vancomycin - [**2116-7-1**] 10:00 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2116-7-2**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-2**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.8
C (100
   HR: 74 (70 - 94) bpm
   BP: 131/57(78) {99/46(59) - 131/58(221)} mmHg
   RR: 12 (9 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SA (Sinus Arrhythmia)
   Height: 72 Inch
    CVP: 9 (6 - 13)mmHg
   Total In:
                                                                  4,271 mL
                                                                     28 mL
   PO:
   TF:
   IVF:
                                                                  2,271 mL
                                                                     28 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    280 mL
   Urine:
                                                                    750 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,521 mL
                                                                   -252 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 17 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: 7.45/41/94.[**Numeric Identifier 128**]/28/3
   Ve: 10.5 L/min
   PaO2 / FiO2: 235
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   331 K/uL
   7.8 g/dL
   111 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.9 mEq/L
   35 mg/dL
   109 mEq/L
   143 mEq/L
   22.6 %
   12.9 K/uL
        [image002.jpg]
                             [**2116-7-1**]  09:06 PM
                             [**2116-7-1**]  11:16 PM
                             [**2116-7-2**]  04:07 AM
   WBC
   12.9
   Hct
   22.6
   Plt
   331
   Cr
   0.8
   TCO2
   32
   29
   Glucose
   111
   Other labs: PT / PTT / INR:14.4/29.4/1.3, Lactic Acid:0.7 mmol/L,
   Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan:
   Assesment: 71 y/o M with h/o recent right MCA CVA stroke hospital
   course c/b bilateral pulmonary emboli, VAP s/p treatment with zosyn,
   now admitted with hemorrhagic 1.1cm focus in right temporal lobe and
   fever and hypotension with sepsis as likely etiology
   .
   # Septic shock :
   Older right IJ central line placed on [**6-17**] likely source of infection.
   Removed last night and will plan to f/up catheter tip cultures from
   line. Also recurrent aspiration pneumonia/pneumonitis is another source
   of infection given his recent history.
   - pan cultured blood, urine, and sputum and  will f/up results
   - placed new Left Subclavian central line last night
   - Will treat with Vancomycin to cover for line infection MRSA, will
   hold off on Zosyn given no clear infiltrate on CXR
   - con
t generous volume repletion with normal saline for hypotension
   - follow UOP>30cc/hr, CVP goal [**9-13**] given on vent
   - weaned off pressors last night , BPs improved
   - consider abdominal source if continues to spike fevers, to look for
   abscess given recent procedure
   # Respiratory failure
   Multifactorial [**1-4**] bilateral PE, possible aspiration, severe OSA
   - wean vent settings
   - place arterial line
   - treat with Vanco as above
   # CVA / new hemorrhagic bleed: patient with changes in mental status
   with increased lethargy and recent history of R MCA ischemic stroke,
   now with hemorrhage. Will get repeat CT head in a.m. to assess
   magnitude of new bleed, holding all anticoagulation for now, will
   consult with neurology regarding potential bleed vs. infectious process
   likely underlying new altered MS. [**First Name (Titles) **] [**Last Name (Titles) 3856**]c 1.1cm focus in right
   temporal lobe. Given small size of bleed and fevers and hypotensive
   episodes a sepsis picture is the more likely source of patient's
   altered MS.
   # Bilateral pulmonary emboli
   Contraindicated given hemorrhagic CVA
   - will need IVC filter to be placed
   - check bilateral LENI's
   - will decide along with neurology timing to restart heparin/coumadin
   .
   #Anemia
 Hct 22.6 this a.m. , may be secondary to some duilutional
   effects given substantial IVFs. Will recheck later today and transfuse
   if  Hct < 21, guaic negative in ER, continue  check stool guaics,  type
   and crossed and consent obtained
   - nml EGD this past month,  will find out when last colonoscopy was
   when pt. less sedated
   # Hypotension
   Likely secondary to septic shock given leukocytosis and fever. Also
   need to consider recurrent pulmonary emboli
   - treat for sepsis as above
   # OSA
   - on ventilator, CPAP when extubated
   .
   # FEN:  NPO for now
   .
   # Access: right IJ placed [**6-17**]
   .
   # PPx: pneumoboots, PPI
   .
   # Code:  FULL
   .
   # Dispo:  ICU for now
   .
   # Comm:  [**Name (NI) 3847**] [**Last Name (NamePattern1) 3851**] (daughter and HCP), cell [**Telephone/Fax (1) 3852**], home
   [**Telephone/Fax (1) 3853**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2116-7-1**] 04:00 PM
   Multi Lumen - [**2116-7-1**] 07:22 PM
   Arterial Line - [**2116-7-1**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2116-07-02 07:00:00 Physician Resident Progress Note
Chief Complaint: Hypotension and respiratory failure
   24 Hour Events:
   BP stable overnight,off pressors since 5pm yesturday. Older, triple
   lumen in the right arm was taken out  and catheter  tip sent for
   culture, new left subclavian placed and new right radial a-line placed
   last night.  Patient had better urine output and BP improved to 120s
   SBP with boluses last night.
   The patient progressed smoothly from the vent to CPAP early this
   morning and is doing well at 10PS / 7PEEP currently , oxygen
   saturations above 96% consistently
 MULTI LUMEN - START [**2116-7-1**] 04:00 PM
   Pt arrived from OSH with triple lumen in place.  Most likely placed at
   [**Hospital1 **] prior to pts D/C.  Blue port unable to flush, brown & white port
   flushing with minimal return.
 INVASIVE VENTILATION - START [**2116-7-1**] 04:00 PM
   intubated in the EW...
 MULTI LUMEN - START [**2116-7-1**] 07:22 PM
 SPUTUM CULTURE - At [**2116-7-1**] 08:00 PM
 ARTERIAL LINE - START [**2116-7-1**] 10:00 PM
 MULTI LUMEN - STOP [**2116-7-1**] 10:47 PM
   Pt arrived from OSH with triple lumen in place.  Most likely placed at
   [**Hospital1 **] prior to pts D/C.  Blue port unable to flush, brown & white port
   flushing with minimal return.
   Allergies:
   Celebrex (Oral) (Celecoxib)
   Facial/mouth sw
   Last dose of Antibiotics:
   Vancomycin - [**2116-7-1**] 10:00 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2116-7-2**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-2**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.8
C (100
   HR: 74 (70 - 94) bpm
   BP: 131/57(78) {99/46(59) - 131/58(221)} mmHg
   RR: 12 (9 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SA (Sinus Arrhythmia)
   Height: 72 Inch
    CVP: 9 (6 - 13)mmHg
   Total In:
                                                                  4,271 mL
                                                                     28 mL
   PO:
   TF:
   IVF:
                                                                  2,271 mL
                                                                     28 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    280 mL
   Urine:
                                                                    750 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,521 mL
                                                                   -252 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 17 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: 7.45/41/94.[**Numeric Identifier 128**]/28/3
   Ve: 10.5 L/min
   PaO2 / FiO2: 235
   Physical Examination:
   GEN: pale complexion, sedated, intubated, no acute distress
   HEENT: EOMI, PERRL, sclera anicteric, no epistaxis, mmm
   NECK: No JVD, 2+carotid upstrokes, no bruits, no cervical
   lymphadenopathy, trachea midline
   CVS:  S1/S2 appreciated, no murmurs or rubs noted, radial pulses +2
   Lungs: CTA, no W/R/R
   ABD: Soft, ND, sedated so unable to assesss for tenderness or abd.
   pain,  +BS, no HSM, no masses
   Ext:  no palpable cords, no edema, 2+ pedal pulses
   Neuro: largely deferred, patient sedated.  Plantar reflex downgoing.
   Skin: No jaundice, cyanosis, or gross dermatitis. No ecchymoses
   Labs / Radiology
   331 K/uL
   7.8 g/dL
   111 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.9 mEq/L
   35 mg/dL
   109 mEq/L
   143 mEq/L
   22.6 %
   12.9 K/uL
        [image002.jpg]
   [**2116-7-2**] CT Head
pending
   [**2116-7-1**] CT Head - with hemorrhagic 1.1cm focus in right temporal lobe
   [**2116-7-1**] CXR :
   Increasing opacification at the right base is consistent with pleural
   fluid and atelectasis, somewhat decreased from [**6-24**] study , no
   pneumothorax and ETT tip 6cm above carina
[**2116-7-1**] 8:16 pm SPUTUM / ENDOTRACHEAL:GRAM STAIN (Final [**2116-7-2**]):
      >25 PMNs and <10 epithelial cells/100X field.
      NO MICROORGANISMS SEEN.
[**2116-7-1**] : Blood culture, catheter tip culture and urine culture all pending
                             [**2116-7-1**]  09:06 PM
                             [**2116-7-1**]  11:16 PM
                             [**2116-7-2**]  04:07 AM
   WBC
   12.9
   Hct
   22.6
   Plt
   331
   Cr
   0.8
   TCO2
   32
   29
   Glucose
   111
   Other labs: PT / PTT / INR:14.4/29.4/1.3, Lactic Acid:0.7 mmol/L,
   Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan:
   Assesment: 71 y/o M with h/o recent right MCA CVA stroke hospital
   course c/b bilateral pulmonary emboli, VAP s/p treatment with zosyn,
   now admitted with hemorrhagic 1.1cm focus in right temporal lobe and
   fever and hypotension with sepsis as likely etiology
   .
   # Septic shock :
   Older right IJ central line placed on [**6-17**] likely source of infection.
   Removed last night and will plan to f/up catheter tip cultures from
   line. Also recurrent aspiration pneumonia/pneumonitis is another source
   of infection given his recent history.
   - pan cultured blood, urine, and sputum and  will f/up results
   - placed new Left Subclavian central line last night
   - Will treat with Vancomycin to cover for line infection MRSA, will
   hold off on Zosyn given no clear infiltrate on CXR
   - con
t generous volume repletion with normal saline for hypotension
   - follow UOP>30cc/hr, CVP goal [**9-13**] given on vent
   - weaned off pressors last night , BPs improved
   - consider abdominal source if continues to spike fevers, to look for
   abscess given recent procedure
   # Respiratory failure
   Multifactorial [**1-4**] bilateral PE, possible aspiration, severe OSA
   - weaned from vent settings well overnight, doing well on CPAP
   currently (10PS/7PEEP)
   - place arterial line
   - treat with Vancomycin as above
   # CVA / new hemorrhagic bleed: patient with changes in mental status
   with increased lethargy and recent history of R MCA ischemic stroke,
   now with hemorrhage. Will get repeat CT head in a.m. to assess
   magnitude of new bleed, holding all anticoagulation for now, will
   consult with neurology regarding potential bleed vs. infectious process
   likely underlying new altered MS. [**First Name (Titles) **] [**Last Name (Titles) 3856**]c 1.1cm focus in right
   temporal lobe. Given small size of bleed and fevers and hypotensive
   episodes a sepsis picture is the more likely source of patient's
   altered MS.
   # Bilateral pulmonary emboli
   Contraindicated given hemorrhagic CVA
   - will need IVC filter to be placed most likely, will call IR to see
   this a.m.
   - check bilateral LENI's
   - will decide along with neurology timing to restart heparin/coumadin
   .
   #Anemia
 Hct 22.6 this a.m. , may be secondary to some duilutional
   effects given substantial IVFs. Will recheck later today and transfuse
   if  Hct < 21, guaic negative in ER, continue  check stool guaics,  type
   and crossed and consent obtained
   - nml EGD this past month,  will find out when last colonoscopy was
   when pt. less sedated
   # Hypotension
   Likely secondary to septic shock given leukocytosis and fever. Also
   need to consider recurrent pulmonary emboli
   - treat for sepsis as above
   # OSA
   - on CPAP now doing well at 10PS / 7PEEP, oxygen saturations above 96%
   consistently
   .
   # FEN:  NPO for now, aspiration risk
   .
   # Access: left subclavian, right a-line
   .
   # PPx: pneumoboots, PPI
   .
   # Code:  FULL
   .
   # Dispo:  ICU for now
   .
   # Comm:  [**Name (NI) 3847**] [**Last Name (NamePattern1) 3851**] (daughter and HCP), cell [**Telephone/Fax (1) 3852**], home
   [**Telephone/Fax (1) 3853**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2116-7-1**] 04:00 PM
   Multi Lumen - [**2116-7-1**] 07:22 PM
   Arterial Line - [**2116-7-1**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2116-07-02 11:05:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, CVA, altered mental status,
   aspiration, hypotension, fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above.
   HPI:
   Patient weaned off of vasopressors. Given fluid resuscitation with
   improved urine output. Initial CVP was 6 and increased with fluids.
   Right IJ was removed and tip cultured.
   This AM placed on PSV (switched from assist control). Good O2 sats on
   FIO2=0.4. RSBI was 32 this AM.
   24 Hour Events:
 MULTI LUMEN - START [**2116-7-1**] 04:00 PM
   Pt arrived from OSH with triple lumen in place.  Most likely placed at
   [**Hospital1 **] prior to pts D/C.  Blue port unable to flush, brown & white port
   flushing with minimal return.
 INVASIVE VENTILATION - START [**2116-7-1**] 04:00 PM
   intubated in the EW...
 MULTI LUMEN - START [**2116-7-1**] 07:22 PM
 SPUTUM CULTURE - At [**2116-7-1**] 08:00 PM
 ARTERIAL LINE - START [**2116-7-1**] 10:00 PM
 MULTI LUMEN - STOP [**2116-7-1**] 10:47 PM
   Pt arrived from OSH with triple lumen in place.  Most likely placed at
   [**Hospital1 **] prior to pts D/C.  Blue port unable to flush, brown & white port
   flushing with minimal return.
   History obtained from Medical records
   Patient unable to provide history: Unresponsive, Intubated
   Allergies:
   Celebrex (Oral) (Celecoxib)
   Facial/mouth sw
   Last dose of Antibiotics:
   Vancomycin - [**2116-7-2**] 07:59 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2116-7-2**] 12:00 AM
   Other medications:
   Atrovent, albuterol MDI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-2**] 10:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.7
C (99.9
   HR: 70 (65 - 94) bpm
   BP: 115/53(72) {99/46(59) - 131/58(221)} mmHg
   RR: 13 (9 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 9 (6 - 13)mmHg
   Total In:
                                                                  4,271 mL
                                                                  1,242 mL
   PO:
   TF:
   IVF:
                                                                  2,271 mL
                                                                  1,242 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    575 mL
   Urine:
                                                                    750 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,521 mL
                                                                    667 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 682 (682 - 682) mL
   PS : 9 cmH2O
   RR (Set): 8
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 15 cmH2O
   Plateau: 12 cmH2O
   SpO2: 99%
   ABG: 7.44/44/114/28/5
   Ve: 11.8 L/min
   PaO2 / FiO2: 285
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (PMI No(t) Hyperdynamic), (S1: Normal, No(t) Absent),
   (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anteriorally and laterally, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, G-tube; umbilical
   hernia
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing,
   Venous stasis changes
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Tactile stimuli, Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   331 K/uL
   111 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.9 mEq/L
   35 mg/dL
   109 mEq/L
   143 mEq/L
   22.6 %
   12.9 K/uL
        [image002.jpg]
                             [**2116-7-1**]  09:06 PM
                             [**2116-7-1**]  11:16 PM
                             [**2116-7-2**]  04:07 AM
                             [**2116-7-2**]  06:21 AM
   WBC
   12.9
   Hct
   22.6
   Plt
   331
   Cr
   0.8
   TCO2
   32
   29
   31
   Glucose
   111
   Other labs: PT / PTT / INR:14.4/29.4/1.3, Differential-Neuts:67.0 %,
   Band:1.0 %, Lymph:13.0 %, Mono:6.0 %, Eos:12.0 %, Lactic Acid:0.7
   mmol/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR: improved aeration at the bases compared to yesterday.
   Possible small right effusion and right basilar atelectasis. No
   discrete infiltrates. ETT and left subclavian line in good position
   Assessment and Plan
   1) Respiratory failure
   2) Fever
   3) Altered mental Status
   4) CVA
   5) Anemia
   6) Hypotension
   7) Hx of PE
   Patient doing well on PSV. Excellent RSBI. Will proceed with extubation
   today.
   Right central line removed. Vanco continued for possible line
   infection. Has been hemodynamically stable since late yesterday
   afternoon. Volume resuscitation appropriate. Keep CVP 8-12 with good
   urine output.
   Mental status improved this AM. Patient is opening his eyes; appears to
   be nodding head to a few simple questions.
   Hct 22. No obvious bleeding. Nearing transfusion threshold.
   Patient to have repeat CT to assess change in hemorrhage.
   Interventional radiology to assess for IVC filter. LENI
s pending.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2116-7-1**] 04:00 PM
   Multi Lumen - [**2116-7-1**] 07:22 PM
   Arterial Line - [**2116-7-1**] 10:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition : ICU
   Total time spent: 35 minutes
   Patient is critically ill
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 25**], MD

2116-07-03 06:21:00 Physician Resident Progress Note
Chief Complaint:
   71 y/o M with h/o recent right MCA CVA stroke hospital course c/b
   bilateral pulmonary emboli, VAP s/p treatment with zosyn, now admitted
   with hemorrhagic 1.1cm focus in right temporal lobe and new onset
   fevers, hypotension, and suspected  sepsis.
   24 Hour Events:
   Patient had repeat head CT yesturday which showed no transformation
   from the right temporal area 1.1cm homorrhagic focus noted in prior CT.
   He had IVC filter placed with no complications and started to get PEG
   tube feeds which he is tolerating well. He was also started on a bowel
   regimen to encourage BMs.
   Overnight he had some climbing blood pressures up into the 160s SBP
   range and in addition to his home enalapril he was also given
   Hydralazine and Diltiazem to gain better control BP. He is now on 60mg
   qid Diltiazem and IV Hydralazine PRN  with his daily home enalapril
   dose.  SBP goal 120-140.
   He was placed on CPAP overnight and is saturating above 95%
   consistently on 18/ 8 setting and is now comfortable with 94% O2 sat on
   4L NC.
 ULTRASOUND - At [**2116-7-2**] 10:12 AM
   bilat leni's to determine presence of clots.
 INVASIVE VENTILATION - STOP [**2116-7-2**] 11:09 AM
   intubated in the EW...
   Allergies:
   Celebrex (Oral) (Celecoxib)
   Facial/mouth sw
   Last dose of Antibiotics:
   Vancomycin - [**2116-7-2**] 08:00 PM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2116-7-3**] 03:06 AM
   Hydralazine - [**2116-7-3**] 03:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-3**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 88 (70 - 106) bpm
   BP: 153/65(92) {104/50(63) - 167/75(104)} mmHg
   RR: 19 (10 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 11 (5 - 12)mmHg
   Total In:
                                                                  1,631 mL
                                                                    164 mL
   PO:
   TF:
   IVF:
                                                                  1,571 mL
                                                                     64 mL
   Blood products:
   Total out:
                                                                  2,005 mL
                                                                    590 mL
   Urine:
                                                                  2,005 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -374 mL
                                                                   -427 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 682 (682 - 682) mL
   PS : 9 cmH2O
   RR (Set): 8
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 15 cmH2O
   Plateau: 12 cmH2O
   SpO2: 95%
   ABG: ///25/
   Ve: 11.8 L/min
   Physical Examination
   GEN: pale complexion, no acute distress, less alert today, noted gaze
   to right with left neglect during interactions
   HEENT: EOM exam revealed right neglect with gaze abating at midline,
   PERRL, sclera anicteric, no epistaxis, mmm
   NECK: JVP roughly 8cm , 2+carotid upstrokes, no bruits, no cervical
   lymphadenopathy, trachea midline
   CVS:  S1/S2 appreciated, no murmurs or rubs noted, radial pulses +2
   Lungs:  Diffuse rhonchi noted on exam at apices bilaterally, no rubs or
   wheezes noted, posterior exam limited
   ABD: Soft, mild distension,  denies tenderness,  +BS in all four
   quadtants, no HSM, no masses
   Ext:  mild, 1 + edema LE, (R>L) ,  2+ pedal pulses
   Neuro:  EOM reveals left sided neglect,  Plantar reflex downgoing on
   right, neutral on left, full UE and LE  left sided hemiparesis noted
   with no grasp at left hand.  Right side sensation and motor function in
   tact.
   Skin: No jaundice, cyanosis, or gross dermatitis. No ecchymoses
   Labs / Radiology
   362 K/uL
   8.3 g/dL
   108 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.5 mEq/L
   23 mg/dL
   107 mEq/L
   142 mEq/L
   24.1 %
   14.2 K/uL
        [image002.jpg]
   [**2116-7-2**] :  Bilateral LENIs showed thrombus in the right peroneal vein
   CT [**2116-7-2**] :  evolution of infarct w/small area of hemorrhage within
   the infarct, no mass effects noted
                             [**2116-7-1**]  09:06 PM
                             [**2116-7-1**]  11:16 PM
                             [**2116-7-2**]  04:07 AM
                             [**2116-7-2**]  06:21 AM
                             [**2116-7-3**]  04:42 AM
   WBC
   12.9
   14.2
   Hct
   22.6
   24.1
   Plt
   331
   362
   Cr
   0.8
   0.7
   TCO2
   32
   29
   31
   Glucose
   111
   108
   Other labs: PT / PTT / INR:13.7/28.7/1.1, Differential-Neuts:67.0 %,
   Band:1.0 %, Lymph:13.0 %, Mono:6.0 %, Eos:12.0 %, Lactic Acid:0.7
   mmol/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan:
   Assessment and Plan:
   Assesment: 71 y/o M with h/o recent right MCA CVA stroke hospital
   course c/b bilateral pulmonary emboli, VAP s/p treatment with zosyn,
   now admitted with hemorrhagic 1.1cm focus in right temporal lobe and
   fever and hypotension with sepsis as likely etiology
   .
   # Septic shock :
   Older right IJ central line placed on [**6-17**] have been likely source
   of infection, catheter tip culture s/p removal is pending.  Also
   recurrent aspiration pneumonia/pneumonitis is another likely source of
   infection given his impaired gag reflex s/p CVA and  recent history of
   PNAs.
   - urine Cx negative , willl f/up results blood cx, catheter tip cx
   - placed new Left Subclavian central line [**7-1**]
   - Will treat with Vancomycin to cover for line infection MRSA, will
   hold off on Zosyn given no clear infiltrate on CXR
   - con
t generous volume repletion with normal saline if BP drops again,
   appears resolved now
   - follow UOP>30cc/hr, CVP goal [**6-10**]
   -new fevers today of 102s, reculture and follow, some eosinophilia on
   differential today so will check galactomannon & glucan, will encourage
   spirometry also as atelectasis noted on CXRs
   # Respiratory failure
 resolved, still some residual beaseline SOB
   likely [**1-4**] bilateral PE, severe OSA history so we will con
t nightly
   CPAP and daytime NC with low flow oxygen 4-8L PRN for Oxygen sat goal
   in mid-90s.  Con
t Vanco coverage for MRSA risks PNA, recent HAP
   # CVA / new hemorrhagic bleed: patient with changes in mental status on
   admission with increased lethargy and recent history of R MCA ischemic
   stroke, which transformed to hemorrhagic focus, 1.1cm at right temporal
   lobe. Repeat CT head last night showing no aadditional spread or
   evolution of new bleed.  Will holding all anticoagulation for now per
   neurology recs, IVC now in place.
   # Bilateral pulmonary emboli
   Anticoagulation being held given hemorrhagic CVA now,  IVC filter
   placed yesturday without complications.  Bilateral LENI's revealing a
   right peroneal DVT. Will discuss further benefit vs. risk of
   restarting any future heparin/coumadin with neurology
   #Right wrist pain
 will obtain right wrist XR, call OT/PT to get a
   splint and remove a-line at area which may also be causing patient
   discomfort.
   #Anemia
 Hct trend improving from 22.6 yesturday to 24.1 this a.m. ,
   will follow Hct trend overnight and hold off transfusions for now.
   Drop may be secondary to some duilutional effects given substantial
   IVFs on admission. Will recheck p.m. or tomorrow and transfuse if  Hct
   < 25.  History of  guaic negative stool  in ER and in ICU .  Type and
   crossed and consent obtained.  Also of note,  pt. had  a normal  EGD
   this past month.
   # HTN --- patient
s hypotension has resolved, and now conversely had
   issues overnight with HTN which was controlled with Diltiazem and
   Enalapril, will con
t Hydralazine PRN with goal SBP between 120-140
   range.
   # OSA
   - on CPAP overnight ,  set at 18PS/ 8 PEEP last night, oxygen
   saturations above 96% consistently, will continue nightly
   .
   # FEN:  Will continue PEG feeds for now with Nutrien, replete
   electrolytes PRN
   .
   # Access: left subclavian, right a-line
   .
   # PPx: pneumoboots, PPI
   .
   # Code:  FULL
   .
   # Dispo:  ICU for now, still spiking fevers
   .
   # Comm:  [**Name (NI) 3847**] [**Last Name (NamePattern1) 3851**] (daughter and HCP), cell [**Telephone/Fax (1) 3852**], home
   [**Telephone/Fax (1) 3853**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2116-7-1**] 04:00 PM
   Multi Lumen - [**2116-7-1**] 07:22 PM
   Arterial Line - [**2116-7-1**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2116-07-03 12:17:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, CVA, DVT, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   LENI's positive for DVT yesterday (right leg) and patient had placement
   of IVC filter.
   PEG tube feedings started.
   Duirng the night, BP was elevated. He received prn hydralazine and
   started on diltiazem.
   Doing well post-extubation. Placed on CPAP at night for his OSA.
   24 Hour Events:
 ULTRASOUND - At [**2116-7-2**] 10:12 AM
   bilat leni's to determine presence of clots.
 INVASIVE VENTILATION - STOP [**2116-7-2**] 11:09 AM
   intubated in the EW...
   History obtained from Patient
   Allergies:
   Celebrex (Oral) (Celecoxib)
   Facial/mouth sw
   Last dose of Antibiotics:
   Vancomycin - [**2116-7-3**] 08:26 AM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2116-7-3**] 03:06 AM
   Diltiazem - [**2116-7-3**] 06:41 AM
   Pantoprazole (Protonix) - [**2116-7-3**] 08:26 AM
   Other medications:
   atrovent, enalopril, iron, colace, diltiazem
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-3**] 12:16 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.8
C (100.1
   HR: 96 (84 - 106) bpm
   BP: 135/59(85) {109/54(72) - 167/75(104)} mmHg
   RR: 27 (12 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 14 (5 - 14)mmHg
   Total In:
                                                                  1,631 mL
                                                                    519 mL
   PO:
   TF:
   IVF:
                                                                  1,571 mL
                                                                    329 mL
   Blood products:
   Total out:
                                                                  2,005 mL
                                                                    910 mL
   Urine:
                                                                  2,005 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -374 mL
                                                                   -391 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: right gaze preference
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), Heart sounds obscured
   by breath sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Crackles : coarse crackles diffusely, some of which may be
   radiating from upper airway, No(t) Bronchial: , No(t) Wheezes : , No(t)
   Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Pain in right wrist
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   362 K/uL
   108 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.5 mEq/L
   23 mg/dL
   107 mEq/L
   142 mEq/L
   24.1 %
   14.2 K/uL
         [image002.jpg]
                             [**2116-7-1**]  09:06 PM
                             [**2116-7-1**]  11:16 PM
                             [**2116-7-2**]  04:07 AM
                             [**2116-7-2**]  06:21 AM
                             [**2116-7-3**]  04:42 AM
   WBC
   12.9
   14.2
   Hct
   22.6
   24.1
   Plt
   331
   362
   Cr
   0.8
   0.7
   TCO2
   32
   29
   31
   Glucose
   111
   108
   Other labs: PT / PTT / INR:13.7/28.7/1.1, Differential-Neuts:67.0 %,
   Band:1.0 %, Lymph:13.0 %, Mono:6.0 %, Eos:12.0 %, Lactic Acid:0.7
   mmol/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Imaging: Head CT: no change in hemorrhage. No mass effect.
   Assessment and Plan
   1) Respiratory failure
   2) CVA
   3) Altered Mental status
   4) DVT
   5) Anemia
   6) Right Wrist Pain
   Respiratory status stable post-extubation. Using CPAP at night.
   Oxygenation acceptable. WBC up today; secretions in upper airway - some
   concern about ongoing aspiration of upper airway secretions. Obtain CXR
   if temp spikes.
   Mental status reportedly now at baseline post-CVA. Adjusting
   anti-hypertensives. Aim for BP 120-140 systolic.
   IVC filter placed. No evidence of acute pulmonary embolism.
   Hct stable. No need for transfusion now. No evidence of acute bleeding.
   Wrist pain on palpation. Concern about metacarpal fracture vs soft
   tissue injury. Obtain x-ray. Consider splint.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2116-7-1**] 04:00 PM
   Multi Lumen - [**2116-7-1**] 07:22 PM
   Arterial Line - [**2116-7-1**] 10:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2116-07-04 06:12:00 Physician Resident Progress Note
Chief Complaint:
    71 y/o M with h/o recent right MCA CVA stroke hospital course c/b
   bilateral pulmonary emboli, VAP s/p treatment with zosyn, admitted to
   ICU now w/ hemorrhagic CVA, fevers and  hypotension with sepsis
   suspected.
   24 Hour Events:
   Patient had evidence of new RLL infiltrate on CXR and fever 102.5 F
   around 1-2pm yesturday.  Overnight he also had hypotension with SBPs in
   80-90s range and was given 500cc NS bolus to bring up BP.  Cefipime and
   Flagyl added to his Vanco regimen to cover for HAP given poor gag
   reflex and aspiration risks. He has some fleeting, non-sustained SVT
   10-20 beats x2 overnight which resolved and did not need any other [**Hospital **]
   medical management.
   He is on nasal cannula with O2 sats 92-97% on 2L NC .  No CPAP tonight
   as he seems to be aspirating more oral secretions with device.  CPT
   done x 2 with fair results, able to cough to back of throat requiring
   yankuer suctioning.  Possible need for formal swallow study to evaluate
   management of oral secretions
 FEVER - 102.5
F - [**2116-7-3**] 01:00 PM
   Allergies:
   Celebrex (Oral) (Celecoxib)
   Facial/mouth sw
   Last dose of Antibiotics:
   Levofloxacin - [**2116-7-3**] 07:24 PM
   Vancomycin - [**2116-7-3**] 07:56 PM
   Metronidazole - [**2116-7-3**] 10:00 PM
   Cefipime - [**2116-7-4**] 03:00 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2116-7-3**] 06:41 AM
   Pantoprazole (Protonix) - [**2116-7-3**] 08:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-4**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37.8
C (100.1
   HR: 81 (78 - 106) bpm
   BP: 114/51(73) {97/39(60) - 135/63(88)} mmHg
   RR: 25 (21 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 9 (5 - 15)mmHg
   Total In:
                                                                  2,666 mL
                                                                    576 mL
   PO:
   TF:
                                                                    806 mL
                                                                    464 mL
   IVF:
                                                                  1,500 mL
                                                                    112 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                    580 mL
   Urine:
                                                                  1,920 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    746 mL
                                                                     -4 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ////
   Physical Examination
   GEN: pale complexion, no acute distress, more alert today, noted gaze
   to right with left neglect during interactions
   HEENT: EOM exam revealed right neglect with gaze abating at midline,
   PERRL, sclera anicteric, no epistaxis, mmm
   NECK: JVP roughly 6cm , 2+carotid upstrokes, no bruits, no cervical
   lymphadenopathy, trachea midline
   CVS:  S1/S2 appreciated, no murmurs or rubs noted, radial pulses +2
   Lungs:  Diffuse rhonchi noted on exam at apices bilaterally, no rubs or
   wheezes noted, posterior exam limited
   ABD: Soft, mild distension,  denies tenderness,  +BS in all four
   quadtants, no HSM, no masses
   Ext:  mild, 1 + edema LE, (R>L) ,  2+ pedal pulses
   Neuro:  EOM reveals left sided neglect,  Plantar reflex downgoing on
   right, neutral on left, full UE and LE  left sided hemiparesis noted
   with no grasp at left hand.  Right side sensation and motor function in
   tact.
   Skin: No jaundice, cyanosis, or gross dermatitis. No ecchymoses
   Labs / Radiology
   362 K/uL
   8.3 g/dL
   108 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.5 mEq/L
   23 mg/dL
   107 mEq/L
   142 mEq/L
   24.1 %
   14.2 K/uL
        [image002.jpg]
   [**2116-7-4**] :  Na 143, K  3.7, Cl 106, Bicarb 28, BUN 17, Cr .7, Glu 126
   [**2116-7-4**] :  wbc 13.1, Hct 23.6 and Plts 386
   -catheter tip culture negative to date, blood and urine cx negative to
   date
   -[**2116-7-3**] galactomannon and glucan levels pending
   [**2116-7-3**] CXR with worsened Bibasilar atelectasis and newer RLL infiltrate
   [**2116-7-3**]
xray of right wrist pending
                             [**2116-7-1**]  09:06 PM
                             [**2116-7-1**]  11:16 PM
                             [**2116-7-2**]  04:07 AM
                             [**2116-7-2**]  06:21 AM
                             [**2116-7-3**]  04:42 AM
   WBC
   12.9
   14.2
   Hct
   22.6
   24.1
   Plt
   331
   362
   Cr
   0.8
   0.7
   TCO2
   32
   29
   31
   Glucose
   111
   108
   Other labs: PT / PTT / INR:13.7/28.7/1.1, Differential-Neuts:67.0 %,
   Band:1.0 %, Lymph:13.0 %, Mono:6.0 %, Eos:12.0 %, Lactic Acid:0.7
   mmol/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Assesment: 71 y/o M with h/o recent right MCA CVA stroke hospital
   course c/b bilateral pulmonary emboli, VAP s/p treatment with zosyn,
   now admitted with hemorrhagic 1.1cm focus in right temporal lobe and
   fever and hypotension with sepsis as likely etiology
   .
   # Septic shock :
   Older right IJ central line placed on [**6-17**] have been likely source
   of infection, final catheter tip culture s/p removal is pending,
   negative growth to date.  Given impaired gag response recurrent
   aspiration pneumonia/pneumonitis is another likely source of infection,
   especially given focal infiltrate on recent CXR RLL area  and  recent
   history of PNAs.
   - urine Cx negative , willl f/up results blood cx, catheter tip cx
   negative to date
   - placed new Left Subclavian central line [**7-1**]
   - Will treat with Vancomycin to cover for line infection MRSA, added
   Cefipime and flagyl coverage given newer  infiltrate on CXR [**7-3**]
   - con
t generous volume repletion with normal saline if BP drops again,
   appears resolved now
   - follow UOP>30cc/hr, CVP goal [**6-10**]
   -con
t to have fevers 102s, recultured, will f/up cx results and  due
   to eosinophilia on differential [**7-3**] will check galactomannon & glucan,
   will encourage spirometry/Chest PT  also as atelectasis noted on CXRs
   # Cardiac arrhythmias /HTN
 had SVT last night for [**9-21**] second runs
   x2, had brief run of V-tach this a.m. which resolved in less than
   30secs. Patient without acute clinical symptoms during all episodes,
   comfortable, no SOB, no chest pains.  Will f/up with cardiology consult
   and will adjust cardiac medications to discontinue enalapril and
   Diltiazem and will plan to start IV Captopril for rate control /HTN
   control with goal SBP between 120-140 range
   # Respiratory failure
 resolved,  severe OSA history further
   complicates picture, holding nightly CPAP for now as patient appears to
   aspirate much more with mask in place. Will  maintain on NC with low
   flow oxygen 2-4L for Oxygen sat goal in mid-90s today and through night
   for now.  Con
t Vanco/Cefipime/Flagyl coverage for MRSA risks,
   suspected PNA, recent HAP hx
   # CVA / new hemorrhagic bleed: mental status changes improved from
   admission, decreased lethargy. Recent history of R MCA ischemic stroke,
   which transformed to hemorrhagic focus, 1.1cm at right temporal lobe.
   Repeat CT head [**7-2**] showing no additional spread or evolution of new
   bleed.  Will holding all anticoagulation for now per neurology recs,
   IVC now in place.  Will discuss long term anticoag advice with neuro
   team.
   # Bilateral pulmonary emboli
   Anticoagulation being held given hemorrhagic CVA ,  IVC filter  placed
   [**7-2**] without complications.  Bilateral LENI's revealing a right
   peroneal DVT.  As above, will discuss further benefit vs. risk of
   restarting any future heparin/coumadin with neurology
   #Right wrist pain
 will follow-up final right wrist XR, call OT/PT to
   get a splint and remove a-line at area which may also be causing
   patient discomfort.
   #Anemia
 low Hct trend still lingering in 23-24 range for few days.
   Given new cardiac changes will give 1 Unit blood to stabilize HCT and
   will follow Hct trend [**Hospital1 **].  Initial drop may have been secondary to
   some duilutional effects given substantial IVFs on admission. History
   of  guaic negative stool  in ER and in ICU .  Type and crossed and
   consent obtained.  Also of note,  pt. had  a normal  EGD this past
   month.
   # OSA
 holding  CPAP overnight  as aspirates actively w/mask,  oxygen
   saturations above 96% consistently, will continue nightly NC with low
   flow O2 2-4L
   .
   # FEN:  Will continue PEG feeds for now with Nutrien, replete
   electrolytes PRN
   .
   # Access: left subclavian, right a-line
   .
   # PPx: pneumoboots, PPI
   .
   # Code:  FULL
   .
   # Dispo:  ICU for now, still spiking fevers,cardiac arrhythmias
   .
   # Comm:  [**Name (NI) 3847**] [**Last Name (NamePattern1) 3851**] (daughter and HCP), cell [**Telephone/Fax (1) 3852**], home
   [**Telephone/Fax (1) 3853**]
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2116-7-3**] 01:15 PM 75 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2116-7-1**] 04:00 PM
   Multi Lumen - [**2116-7-1**] 07:22 PM
   Arterial Line - [**2116-7-1**] 10:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2116-07-04 12:13:00 Physician Attending Progress Note
Chief Complaint: hypotension and fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   71M with recent R MCA stroke, admitted with fever and hypotension of
   unknown source, concern for PNA vs. line infection:
   24 Hour Events:
 FEVER - 102.5
F - [**2116-7-3**] 01:00 PM
   *febrile last night, with new infiltrate on CXR, broadened abx
   *mildly hypotensive overnight, bolused with fluids
   *pulmonary toilet yesterday
   *in chair today
   ***this am NSVT, resolved with cough, lytes sent
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Celebrex (Oral) (Celecoxib)
   Facial/mouth sw
   Last dose of Antibiotics:
   Levofloxacin - [**2116-7-3**] 07:24 PM
   Vancomycin - [**2116-7-3**] 07:56 PM
   Metronidazole - [**2116-7-3**] 10:00 PM
   Cefipime - [**2116-7-4**] 03:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   pantopr, enalapril, iron, colace, diltizem, atrovent nebs,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2116-7-4**] 12:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37.3
C (99.2
   HR: 93 (78 - 106) bpm
   BP: 147/66(91) {97/39(60) - 147/66(91)} mmHg
   RR: 29 (21 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 21 (8 - 21)mmHg
   Total In:
                                                                  2,666 mL
                                                                  1,227 mL
   PO:
   TF:
                                                                    806 mL
                                                                    880 mL
   IVF:
                                                                  1,500 mL
                                                                    167 mL
   Blood products:
   Total out:
                                                                  1,920 mL
                                                                    720 mL
   Urine:
                                                                  1,920 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    746 mL
                                                                    507 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Cor: PMI diffuse. S1 and S2 soft. No gallop or murmur. Chest: diffuse
   rhonchi bilaterally. No wheeze. Abdomen: PEG in place. Active bowel
   sounds. No tenderness or guarding. Extrem: warm. 1+ edema bilaterally.
   Neuro: answers questions appropriately.
   Labs / Radiology
   8.6 g/dL
   386 K/uL
   136 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.8 mEq/L
   18 mg/dL
   108 mEq/L
   143 mEq/L
   23.6 %
   13.1 K/uL
        [image002.jpg]
                             [**2116-7-1**]  09:06 PM
                             [**2116-7-1**]  11:16 PM
                             [**2116-7-2**]  04:07 AM
                             [**2116-7-2**]  06:21 AM
                             [**2116-7-3**]  04:42 AM
                             [**2116-7-4**]  05:40 AM
   WBC
   12.9
   14.2
   13.1
   Hct
   22.6
   24.1
   23.6
   Plt
   [**Telephone/Fax (3) 3882**]
   Cr
   0.8
   0.7
   0.7
   TCO2
   32
   29
   31
   Glucose
   111
   108
   136
   Other labs: PT / PTT / INR:14.6/29.0/1.3, Differential-Neuts:81.0 %,
   Band:0.0 %, Lymph:7.0 %, Mono:7.0 %, Eos:4.0 %, Lactic Acid:0.7 mmol/L,
   Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Imaging: cxr: less opacity at the R base; much better lung volumes
   Microbiology: ngtd (incl. culture tip)
   Assessment and Plan
   1. non-sustained vtach
   2. wrist pain
   3. eosinophilia - resolving
   4. PNA
   5. CVA, hemorrhagic transformation
   6. PE/DVT
   71M with recent CVA and bilateral PE, presents with fever and
   hypotension, with evidence of hemorrhagic transfomation of the prior
   CVA, also with recurrent PNA. Blood pressure has been labile -
   hypertensive, then hypotensive with meds. Today patient had an epidose
   of NSVT of unclear etiology.
   plan by problem:
   1. non-sustained vtach
   -cardiology consult
   -start beta blocker and monitor for bronchospasm given reports of
   asthma
   -transfuse 1 unit prbc given possible ischemia
   -cycle troponins, potassium and magnesium repleated
 aim to keep
   potassium at 4.5 -5.
   2. wrist pain
   -for wrist pain, remove a-line and follow-up wrist xray read
   4. PNA: aspiration
   -cont abx for hcap
   -picc line for abx; then will d/c central line
   -swallow eval; continue NPO for now and peg feeds
   -consider a scopolamine patch.
   5. CVA, hemorrhagic transformation
   -holding a/c, neurology following
   -?consider other methods if decreasing secretions
   6. PE/DVT: s/p filter
   -holding off anticoagulation until further discussion with neurology;
   may be able to restart it in [**12-4**] days if mental status remains
   unchanged
   7. HTN
   -stop enalapril, transition to captopril
   -stop diltiazem; start metoprolol
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2116-7-3**] 01:15 PM 75 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2116-7-1**] 07:22 PM
   Arterial Line - [**2116-7-1**] 10:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2116-07-05 05:44:00 Physician Resident Progress Note
Chief Complaint:
   71 y/o M with h/o recent right MCA CVA stroke hospital course c/b
   bilateral pulmonary emboli, VAP s/p treatment with zosyn, admitted to
   ICU now w/ hemorrhagic CVA, fevers and  hypotension with sepsis
   suspected
   24 Hour Events:
   Cardiology consulted yesturday and patient had lipid profile sent and
   team advised to try to keep potassium above 4.5, will plan to get
   echo,  still has TTE pending.
   Hct improved from 23
 24.9 after 1 Unit blood yesturday, now Hct 25.3.
   He had a brief run of V-tach yesturday afternoon that lasted less than
   a minute with no associated CP, SOB.  He had no additional arrhythmias
   overnight other than occasional PVCs.  Patient is now on Captopril PO
   for HTN and rate control, enalapril and Diltiazem discontinued
   yesturday.  SBPs in 130-140 range overnight.  He is still awaiting PICC
   placement which will likely take place Monday.  He also had a guiac
   positive stool yesturday, no hematochezia or BRBPR per R.N.  just a
   dark formed stool, occult blood noted.
   He is breathing regularly on 2L NC with oxygen sats 92-100% overnight.
   No CPAP last night  as he seems to be aspirating more oral secretions
   with the CPAP device.  Chest PT continues  with fair results, coughing
   up sputum and getting oral suctioning.
   Right a-line was discontinued. Right wrist x-ray without fractures,
   some soft tissue swelling noted and some chondrocalcification markings
 ARTERIAL LINE - STOP [**2116-7-4**] 12:50 PM
   Allergies:
   Celebrex (Oral) (Celecoxib)
   Facial/mouth sw
   Last dose of Antibiotics:
   Levofloxacin - [**2116-7-3**] 07:24 PM
   Vancomycin - [**2116-7-4**] 08:04 PM
   Cefipime - [**2116-7-4**] 08:04 PM
   Metronidazole - [**2116-7-4**] 09:48 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2116-7-5**] 05:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.6
C (97.8
   HR: 86 (72 - 98) bpm
   BP: 142/61(81) {106/46(3) - 147/87(99)} mmHg
   RR: 20 (20 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 21 (21 - 21)mmHg
   Total In:
                                                                  3,797 mL
                                                                    577 mL
   PO:
   TF:
                                                                  1,650 mL
                                                                    430 mL
   IVF:
                                                                  1,532 mL
                                                                     57 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,500 mL
                                                                    770 mL
   Urine:
                                                                  1,500 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,297 mL
                                                                   -193 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   GEN: pale complexion, no acute distress, more alert today, noted gaze
   to right with left neglect during interactions
   HEENT: EOM exam revealed right neglect with gaze abating at midline,
   PERRL, sclera anicteric, no epistaxis, mmm
   NECK: JVP roughly 6cm-7cm , 2+carotid upstrokes, no bruits, no cervical
   lymphadenopathy, trachea midline
   CVS:  S1/S2 appreciated, no murmurs or rubs noted, radial pulses +2
   Lungs:  Diffuse rhonchi noted on exam at apices bilaterally, no rubs or
   wheezes noted, posterior exam limited
   ABD: Soft, mild distension,  denies tenderness,  +BS in all four
   quadrants, no HSM, no masses
   Ext:  mild, 1 + edema LE, (R>L) ,  2+ pedal pulses
   Neuro:  EOM reveals left sided neglect,  Plantar reflex downgoing on
   right, neutral on left, full UE and LE  left sided hemiparesis noted
   with no grasp at left hand.  Right side sensation and motor function in
   tact.
   Skin: No jaundice, cyanosis, or gross dermatitis. No ecchymoses
   Labs / Radiology
   370 K/uL
   8.9 g/dL
   113 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.4 mEq/L
   16 mg/dL
   107 mEq/L
   142 mEq/L
   25.3 %
   13.8 K/uL
        [image002.jpg]
   [**2116-7-4**] : Lipid profile
 HDL: 33, CHOL/HD: 4.1, LDLcalc: 89, Total Chol
   135, Trigly 66
   [**2116-7-4**]: final wrist x-ray
 no fractures, some soft tissue swelling
   noted
   [**2116-7-4**]: Trops .02, .01. 01 and all CKs WNL
   [**2116-7-5**] : Ca low at 8.1 today
   Urine Cx, R-IJ catheter tip cx negative, Blood cx  negative to date ,
   pending Blood cx from [**7-3**] and [**7-4**]
   Glucan and Galactomannan levels pending
                             [**2116-7-1**]  09:06 PM
                             [**2116-7-1**]  11:16 PM
                             [**2116-7-2**]  04:07 AM
                             [**2116-7-2**]  06:21 AM
                             [**2116-7-3**]  04:42 AM
                             [**2116-7-4**]  05:40 AM
                             [**2116-7-4**]  11:21 AM
                             [**2116-7-4**]  08:27 PM
                             [**2116-7-4**]  08:28 PM
                             [**2116-7-5**]  04:42 AM
   WBC
   12.9
   14.2
   13.1
   14.2
   13.8
   Hct
   22.6
   24.1
   23.6
   24.9
   25.3
   Plt
   [**Telephone/Fax (3) 3895**]56
   370
   Cr
   0.8
   0.7
   0.7
   0.7
   0.6
   TropT
   0.02
   0.01
   0.01
   0.01
   TCO2
   32
   29
   31
   Glucose
   111
   108
   136
   126
   113
   Other labs: PT / PTT / INR:14.6/29.0/1.3, CK / CKMB /
   Troponin-T:46/3/0.01, Differential-Neuts:81.0 %, Band:0.0 %, Lymph:7.0
   %, Mono:7.0 %, Eos:4.0 %, Lactic Acid:0.7 mmol/L, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan:
   Assesment: 71 y/o M with h/o recent right MCA CVA stroke hospital
   course c/b bilateral pulmonary emboli, VAP s/p treatment with zosyn,
   now admitted with hemorrhagic 1.1cm focus in right temporal lobe and
   fever and hypotension with sepsis as likely etiology
   .
   # Septic shock :
   Older right IJ central line placed on [**6-17**] have been likely source
   of infection, final catheter tip culture s/p removal is pending,
   negative growth to date.  Given impaired gag response recurrent
   aspiration pneumonia/pneumonitis is another likely source of infection,
   especially given focal infiltrate on recent CXR RLL area  and  recent
   history of PNAs.
   - urine Cx negative ,  blood cx, urine cx and catheter tip cx
   negative to date, will follow pending blood cx
   - placed new Left Subclavian central line [**7-1**]
   - Will treat with Vancomycin to cover for line infection MRSA, added
   Cefipime and flagyl coverage given newer  RLL infiltrate on CXR [**7-3**]
   - con
t generous volume repletion with normal saline if BP drops again,
   appears resolved now
   - follow UOP>30cc/hr, CVP goal [**6-10**]
   -con
t to have fevers 102s, recultured, will f/up cx results and  due
   to eosinophilia on differential [**7-3**] will f/up pending galactomannon &
   glucan
   # Cardiac arrhythmias /HTN
 had brief V-tach run  on [**7-3**] for less
   than 30secs episode, and NSVT  for [**9-21**] second runs x2 the night prior
   but no episodes overnight from [**Date range (1) 3901**], a few PVCs noted overnight.
   Patient without acute clinical symptoms during all episodes,
   comfortable, no SOB, no chest pains.  EKGs showing no new changes.
   Cardiology consult [**7-4**] advised lipid profile f/up, and ECHO which will
   likely be done Monday [**7-6**]. Also,  cardiac medications adjusted as we
   discontinued enalapril and Diltiazem and  started PO Captopril
   alongside Lopressor PO for rate control /HTN control with goal SBP
   between 120-140 range
   # Respiratory failure
 resolved,  severe OSA history further
   complicates picture, holding nightly CPAP for now as patient appears to
   aspirate much more with mask in place. Will  maintain on NC with low
   flow oxygen 2-4L for Oxygen sat goal in mid-90s today and through night
   for now.  Con
t Vanco/Cefipime/Flagyl coverage for MRSA risks,
   suspected PNA, recent HAP hx  ,
   will encourage spirometry/Chest PT also as atelectasis noted on CXRs,
   checking daily CXRs
   # CVA / new hemorrhagic bleed: mental status changes improved from
   admission, decreased lethargy. Recent history of R MCA ischemic stroke,
   which transformed to hemorrhagic focus, 1.1cm at right temporal lobe.
   Repeat CT head [**7-2**] showing no additional spread or evolution of new
   bleed.  Will holding all anticoagulation for now per neurology recs,
   IVC now in place.  Will discuss long term anticoag advice with neuro
   team.
   # Bilateral pulmonary emboli
   Anticoagulation being held given hemorrhagic CVA ,  IVC filter  placed
   [**7-2**] without complications.  Bilateral LENI's revealing a right
   peroneal DVT.  As above, will discuss further benefit vs. risk of
   restarting any future heparin/coumadin with neurology once patient
   stabilizes
   #Right wrist pain
 right wrist XR shows no fractures, called OT/PT and
   pt. fitted with splint,  a-line removed, x-ray c/w possible arthritic
   changes and has some local swelling at area which may also be causing
   patient discomfort. Will con
t monitor and Tylenol PRN for pain control
   #Anemia
patient got 1 Unit blood yesturday and Hct up to 25 range now
   after recent low Hct trend in 23-24 range for few days. Given new
   cardiac changes will watch Hct trend [**Hospital1 **].  Initial drop may have been
   secondary to some duilutional effects given substantial IVFs on
   admission. Last night had positive occult guaic of stool, no gross
   hematochezia or melena noted.  Type and crossed and consent obtained
   already.  Also of note,  pt. had  a normal  EGD this past month. New
   positive guiac and HCt trend warrant colonoscopy at future date and
   possible workup for underlying malignancy.
   # OSA
 holding  CPAP overnight  as aspirates actively w/mask,  oxygen
   saturations above 96% consistently, will continue nightly NC with low
   flow O2 2-4L
   .
   # FEN:  Will continue PEG feeds for now with Nutrien, replete
   electrolytes PRN
   .
   # Access: left subclavian, PIV
   .
   # PPx: pneumoboots, PPI, IVC in place  --due for PICC consult on Monday
   [**7-6**]  or weekend if possible
   .
   # Code:  FULL
   .
   # Dispo:   fevers and cardiac issues resloving, stable, will c/o to
   floor today
   .
   # Comm:  [**Name (NI) 3847**] [**Last Name (NamePattern1) 3851**] (daughter and HCP), cell [**Telephone/Fax (1) 3852**], home
   [**Telephone/Fax (1) 3853**]
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2116-7-4**] 02:10 PM 75 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2116-7-1**] 07:22 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2116-07-05 10:03:00 Physician Attending Progress Note
Chief Complaint: hemorrhagic conversion of known cva
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   71M with recent CVA, aspiration pna, bilateral PEs, DVT, and one run of
   [** 3897**]:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2116-7-4**] 12:50 PM
   *a-line discontinued, wrist pain improving
   *seen by cardiology, agree with current plan, incl. getting a tte
   *no more [**Year (4 digits) 3897**] since yesterday am
   *started on scopolamine
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Celebrex (Oral) (Celecoxib)
   Facial/mouth sw
   Last dose of Antibiotics:
   Levofloxacin - [**2116-7-3**] 07:24 PM
   Metronidazole - [**2116-7-5**] 07:12 AM
   Cefipime - [**2116-7-5**] 08:00 AM
   Vancomycin - [**2116-7-5**] 08:48 AM
   Infusions:
   Other ICU medications:
   Other medications:
   pentopr, docusate, atr nebs, flagyl, captopr, vanco, metopr, cef,
   scopolamine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria, Foley
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Signs or concerns for abuse : No
   Pain: [**12-4**] Minimal
   Pain location: wrist
   Flowsheet Data as of  [**2116-7-5**] 10:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 85 (68 - 93) bpm
   BP: 140/59(79) {106/46(3) - 142/87(99)} mmHg
   RR: 27 (20 - 29) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  3,797 mL
                                                                  1,256 mL
   PO:
             TF:
                                                                  1,650 mL
                                                                    720 mL
   IVF:
                                                                  1,532 mL
                                                                    446 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,500 mL
                                                                  1,250 mL
   Urine:
                                                                  1,500 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,297 mL
                                                                      6 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese .. chest: diffuse rhonchi, with expiratory wheeze on right,
   I/E=[**12-4**].  cor: PMI diffuse. S1 and S2 distant. No gallop or murmur.
   Abd: active bowel sounds. +PEG, non tender
   Skin:  warm  Extremities: no pedal edema
   Neurologic: Responds to voice. Movement: purposelful, Tone: Not
   assessed
   Labs / Radiology
   8.9 g/dL
   370 K/uL
   113 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.4 mEq/L
   16 mg/dL
   107 mEq/L
   142 mEq/L
   25.3 %
   13.8 K/uL
        [image002.jpg]
                             [**2116-7-1**]  09:06 PM
                             [**2116-7-1**]  11:16 PM
                             [**2116-7-2**]  04:07 AM
                             [**2116-7-2**]  06:21 AM
                             [**2116-7-3**]  04:42 AM
                             [**2116-7-4**]  05:40 AM
                             [**2116-7-4**]  11:21 AM
                             [**2116-7-4**]  08:27 PM
                             [**2116-7-4**]  08:28 PM
                             [**2116-7-5**]  04:42 AM
   WBC
   12.9
   14.2
   13.1
   14.2
   13.8
   Hct
   22.6
   24.1
   23.6
   24.9
   25.3
   Plt
   [**Telephone/Fax (3) 3895**]56
   370
   Cr
   0.8
   0.7
   0.7
   0.7
   0.6
   TropT
   0.02
   0.01
   0.01
   0.01
   TCO2
   32
   29
   31
   Glucose
   111
   108
   136
   126
   113
   Other labs: PT / PTT / INR:14.6/29.0/1.3, CK / CKMB /
   Troponin-T:46/3/0.01, Differential-Neuts:81.0 %, Band:0.0 %, Lymph:7.0
   %, Mono:7.0 %, Eos:4.0 %, Lactic Acid:0.7 mmol/L, Ca++:8.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Imaging: no new xray
   Microbiology: ngtd
   Assessment and Plan
   1. cva, hemorrhagic conv
   2. pna
   3. pe/dvt
   4. [**Telephone/Fax (3) **]
   5. wrist pain
   6. anemia
   7. Respiratory failure
   71M with cva, hemorrhagic conversion, also with bilateral PEs and a dvt
   s/p ivc filter, and likely aspiration PNA, as well as a brief run of
   [**Telephone/Fax (3) 3897**]. Overall patient is doing much better. He remains afebrile, with
   improved oxygenation. His neurological exam remains unchanged several
   days after repeat head CT that showed stable hemorrhagica
   transformation.
   Decision whether to resume anticoagulation for known clots needs to be
   made in the next several days after detailed discussion with neurology.
   For now will hold off restarting anticoagulation, and continue
   pneumoboot on LLE only for dvt prophylaxis.
   Regarding the [**Last Name (LF) 3897**], [**First Name3 (LF) 178**] obtain a TTE and continue to replete lytes
   aggressively.
   Continues to do well from a respiratory standpoint off the ventilator.
   Hct  stable. No evidence for bleeding. No need for transfusion now.
   For access, awaiting PICC line to be able to discontinue central line.
   Patient should be transferred to the floor today.
   ICU Care
   Nutrition:
   ProBalance (Full) - [**2116-7-4**] 02:10 PM 75 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Multi Lumen - [**2116-7-1**] 07:22 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes
   [**First Name11 (Name Pattern1) **] [**Last Name (NamePattern4) 1426**], MD